US04155872
To 8.96 g (0.105 mol.) of commercial formic acid (85~90%) which was cooled by cold water was gradually added 9.5 g (0.035 mol.) of N-benzyl-n-dodecylamine. Then 2.4 ml (0.0525 mol.) of formaldehyde (37%) was added to the mixture and heated at 90°~100° C. After several minutes, carbon dioxide gas generated, during which the mixture was cooled to room temperature. When the evolution of carbon dioxide stopped, the mixture was again refluxed at 90°~100° C. for 8 hours. After completing the reaction, 18 ml of 4 N-hydrochloric acid was added to the cooled reaction mixture, which was condensed to dryness under reduced pressure. The residue was dissolved in 5 ml of water. 10 ml of 18N-sodium hydroxide solution was added to the aqueous solution which was separated into an oily layer and an aqueous layer, the latter of which was extracted with benzene. The benzene extract was distilled under reduced pressure to obtain N-methyl-N-benzyl-n-dodecylamine, b.p. 146 ~ 149° C./0.4 mmHg.

reactant | formic acid | 0.105 mol, 8.96 g | C(=O)O | CH2O2
reactant | N-benzyl-n-dodecylamine | 0.035 mol, 9.5 g | C(C1=CC=CC=C1)NCCCCCCCCCCCC | C19H33N
reactant | formaldehyde | 0.0525 mol, 2.4 ml | C=O | CH2O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | N-methyl-N-benzyl-n-dodecylamine | CN(CC1=CC=CC=C1)CCCCCCCCCCCC | C20H35N
